US07825253B2
[5-(4-Fluoro-benzyloxy)-quinolin-2-yl]-(5-methyl-furan-2-ylmethyl)-amine
The title compound, MS: m/e=363.3 (M+H+), was prepared in accordance with the general method of example 63 from 5-hydroxy-2-chloroquinoline (CAS 124467-35-2), 5-methyl-2-furanmethanamine and 4-fluoro-benzyl bromide.

reactant | 5-hydroxy-2-chloroquinoline | OC1=C2C=CC(=NC2=CC=C1)Cl | C9H6ClNO
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-fluoro-benzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | [5-(4-Fluoro-benzyloxy)-quinolin-2-yl]-(5-methyl-furan-2-ylmethyl)-amine | FC1=CC=C(COC2=C3C=CC(=NC3=CC=C2)NCC=2OC(=CC2)C)C=C1 | C22H19FN2O2
